US07615642B2
1-({2-tert-Butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}sulfonyl)azetidin-3-amine
Following the same procedure in Example 37, Step A, using tert-butyl[1-({2-tert-butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}sulfonyl)azetidin-3-yl]carbamate (0.34 g, 0.63 mmol) and TFA (5 mL) in CH2Cl2 (10 mL). Yield: 0.26 g (93%). 1H NMR (400 MHz, METHANOL-D4) δ 1.47-1.57 (m, 2 H), 1.61 (s, 9 H), 1.63-1.84 (m, 4 H), 1.98-2.13 (m, 2 H), 2.16-2.32 (m, 1 H), 3.79-3.90 (m, 3 H), 3.97-4.08 (m, 2 H), 4.45 (d, J=7.42 Hz, 2 H), 7.75-7.84 (m, 1 H), 7.86-7.92 (m, 1 H), 8.14 (d, J=1.37 Hz, 1 H); MS (ESI) (M+H)+=441.3; Anal. Calcd for C21H30F2N4O2S+2.10 TFA (680.01): C, 44.51; H, 4.76; N, 8.24. Found: C, 44.48; H, 4.65; N, 8.43.

reactant | tert-butyl[1-({2-tert-butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}sulfonyl)azetidin-3-yl]carbamate | 0.63 mmol, 0.34 g | C(C)(C)(C)OC(NC1CN(C1)S(=O)(=O)C1=CC2=C(N(C(=N2)C(C)(C)C)CC2CCC(CC2)(F)F)C=C1)=O | C26H38F2N4O4S
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-({2-tert-Butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}sulfonyl)azetidin-3-amine | C(C)(C)(C)C1=NC2=C(N1CC1CCC(CC1)(F)F)C=CC(=C2)S(=O)(=O)N2CC(C2)N | C21H30F2N4O2S
